US07781591B2
To a solution of N-methylpiperazine (0.75 g, 7.5 mmol) in hexane (15 mL) at 0° C. under nitrogen was added dropwise a solution of n-BuLi (3 mL, 7.43 mmol, 2.5M/hexanes), and the reaction mixture was stirred at 0° C. for 40 min. 1-Benzofuran-5-carbaldehyde (1.0 g, 6.8 mmol) was added dropwise to the reaction mixture at 0° C. and the resulting mixture was stirred at 0° C. for 15 min. After addition of tetramethylethylenediamine (TMEDA) (1.7 g, 14.96 mmol), a solution of n-BuLi (6.0 mL, 14.86 mmol, 2.5M/hexanes) was added dropwise to the reaction mixture at 0° C. and the reaction mixture was allowed to warm up to room temperature and stirred for a total of 18 h. After the reaction mixture was cooled to 0° C. and THF (30 mL) was added, the reaction mixture was cooled to −50° C., tributyltin chloride (4.87 g, 14.96 mmol) was added dropwise, and the reaction mixture was stirred at −50° C. for 15 min. and at room temperature for 5-6 h. The reaction mixture was quenched with saturated aqueous NaHCO3 and extracted into diethyl ether. The organic layer was dried over sodium sulfate and concentrated and the crude product was purified by column chromatography (ethyl acetate/hexane, 2%) to give 1.0 g (34%) of 2-(tributylstannyl)-1-benzofuran-5-carbaldehyde as a yellow oil.

reactant | N-methylpiperazine | 7.5 mmol, 0.75 g | CN1CCNCC1 | C5H12N2
reactant | n-BuLi | 7.43 mmol, 2.5M, 3 mL | [Li]CCCC
reactant | 1-Benzofuran-5-carbaldehyde | 6.8 mmol, 1.0 g | O1C=CC2=C1C=CC(=C2)C=O | C9H6O2
reactant | tetramethylethylenediamine | 14.96 mmol, 1.7 g | CN(CCN(C)C)C | C6H16N2
reactant | n-BuLi | 14.86 mmol, 2.5M, 6.0 mL | [Li]CCCC
reactant | tributyltin chloride | 14.96 mmol, 4.87 g | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | hexane | 15 mL | CCCCCC | C6H14
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-(tributylstannyl)-1-benzofuran-5-carbaldehyde | 1.0 g, 34% | C(CCC)[Sn](C=1OC2=C(C1)C=C(C=C2)C=O)(CCCC)CCCC | InChI=1S/C9H5O2.3C4H9.Sn/c10-6-7-1-2-9-8(5-7)3-4-11-9;3*1-3-4-2;/h1-3,5-6H;3*1,3-4H2,2H3;
